US05728686
Diethyl [3-(3-methyl-7-propylxanthin-1-yl)propyl]phosphonate
The title substance was prepared from 0.048 mol of 3-methyl-7-propyl-xanthine and 0.058 mol of diethyl 3-bromopropanephosphonate analogously to Example 23.

reactant | 3-methyl-7-propyl-xanthine | 0.048 mol | CN1C(NC(C=2N(C=NC12)CCC)=O)=O | C9H12N4O2
reactant | diethyl 3-bromopropanephosphonate | 0.058 mol | BrCCCP(OCC)(=O)OCC | C7H16BrO3P
product | Diethyl [3-(3-methyl-7-propylxanthin-1-yl)propyl]phosphonate | CN1C(N(C(C=2N(C=NC12)CCC)=O)CCCP(OCC)(OCC)=O)=O | C16H27N4O5P
